US07741323B2
3-Oxo-3-m-tolylpropionate ethyl ester (1 g, 4.84 mmol) was dissolved in benzene, and benzaldehyde (0.51 g, 4.84 mmol), acetic acid (0.15 g, 2.49 mmol) and piperidine (0.06 g, 0.8 mmol) were added thereto. The mixture was refluxed for 4 hours. After the reaction was completed, the organic layer extracted with ethyl acetate/saturated sodium chloride/sodium bicarbonate was dried over anhydrous magnesium sulfate, concentrated, and the resulting residue was purified by column chromatography to obtain 2-(3-methylbenzoyl)-3-phenylacrylate ethyl ester (1 g, yield 70%).

reactant | 3-Oxo-3-m-tolylpropionate ethyl ester | 4.84 mmol, 1 g | C(C)OC(CC(C=1C=C(C=CC1)C)=O)=O | C12H14O3
reactant | benzaldehyde | 4.84 mmol, 0.51 g | C(C1=CC=CC=C1)=O | C7H6O
reactant | acetic acid | 2.49 mmol, 0.15 g | C(C)(=O)O | C2H4O2
reactant | piperidine | 0.8 mmol, 0.06 g | N1CCCCC1 | C5H11N
solvent | benzene | C1=CC=CC=C1 | C6H6
product | 2-(3-methylbenzoyl)-3-phenylacrylate ethyl ester | 1 g, yield 70% | C(C)OC(C(=CC1=CC=CC=C1)C(C1=CC(=CC=C1)C)=O)=O | C19H18O3
